US04757080
(b) 1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(2-nitrophenyl)-5-(4-aminobutoxy)carbonyl-pyridine
Prepared by a method analogous to that of Example 1(b) from 27.0 g (51 mmol) of 1,4-dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(2-nitrophenyl)-5-(4-phthalimidobutoxy)carbonyl-pyridine and 7.4 ml (152 mmol) of hydrazine hydrate. 16.0 g (78%) of an orange yellow oil obtained after chromatographic purification on silica gel with dichloromethane/methanol (95:5) as solvent.

reactant | 1,4-dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(2-nitrophenyl)-5-(4-phthalimidobutoxy)carbonyl-pyridine | 51 mmol, 27.0 g | CC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCCCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C28H27N3O8
reactant | hydrazine hydrate | 152 mmol, 7.4 ml | O.NN
product | 1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(2-nitrophenyl)-5-(4-aminobutoxy)carbonyl-pyridine | 16.0 g, 78% | CC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCCCCN)C | C20H25N3O6
